US07259266B2
Step 1. Preparation of 3.5-dichloro-2-fluoro-6-hydroxybenzaldehyde
To 20 g (114.6 mmole) of 3-chloro-2-fluoro-6-hydroxybenzaldehyde in 250 mL of glacial acetic acid was added 27.8 g of Cl2 gas over a period of 30 min. The mixture was stirred and heated to 60° C. for 2 hrs and allowed to stir at rt overnight. The reaction mixture was diluted with 1L of water and extracted four times with diethyl ether. Combined extracts were washed with water and sat. brine and concd in vacuo to afford a slurry. Addition of 250 mL of water afforded a solid which was collected by filtration and allowed to air dry for 8 hrs to afford 20.42 g (85%) of a yellow solid: mp 58-62° C.; 1H NMR (CDCl3/400 MHz) 7.65 (d, 1H, J=7.5 Hz), 10.26 (s, 1H), 11.88 (s, 1H); 13C NMR (CDCl3/100 MHz) 111.2 (d, J=12.0 Hz), 118.2 (d, J=4.6 Hz), 127.8, 137.6 (C—H, d, J=2.1 Hz), 156.8 (d, J=3.0 Hz), 158.3 (d, J=260.8 Hz), 191.4 (CHO, d, J=8.8 Hz); 19F NMR (CDCl3/400 MHz) −124.7 (d, 1F, J=7.7 Hz); MS (EI) 208 (M+, 100); 207 (91); HRMS (EI) m/z calcd for (C7H3O2Cl2F) 207.9494, found 207.9470.

reactant | 3-chloro-2-fluoro-6-hydroxybenzaldehyde | 114.6 mmole, 20 g | ClC=1C(=C(C=O)C(=CC1)O)F | C7H4ClFO2
reactant | Cl2 | 27.8 g | ClCl | Cl2
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 250 mL | O | H2O
product | 3.5-dichloro-2-fluoro-6-hydroxybenzaldehyde | 20.42 g, 85% | ClC=1C(=C(C=O)C(=C(C1)Cl)O)F | C7H3Cl2FO2
